US04707486
(b) 3-(4,4-Diphenylpiperid-1-yl)-propanol
40 g of 4,4-diphenylpiperidine, 24.7 g of 3-bromopropanol, 116.4 g of powdered potassium carbonate and about 1 g of potassium iodide are heated at the boiling point under reflux and with vigorous stirring in 500 ml of a 1:1 mixture of dioxane and 1-butanol for about 48 hours. After cooling, the mixture is filtered and the filtrate is concentrated. The oily residue is taken up in ethyl acetate, and the solution is filtered again. After the filtrate has been concentrated to dryness, the title product is obtained as a yellowish oily residue which slowly solidifies as a wax. Yield: 44.8 g. With ethereal hydrochloric acid, the hydrochloride is obtained, and is recrystallized from 2-propanol. m.p.: 226°-227° C.

reactant | 4,4-diphenylpiperidine | 40 g | C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1 | C17H19N
reactant | 3-bromopropanol | 24.7 g | BrCCCO | C3H7BrO
reactant | potassium carbonate | 116.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | about 1 g | [I-].[K+]
solvent | 1-butanol | C(CCC)O | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(4,4-Diphenylpiperid-1-yl)-propanol | C1(=CC=CC=C1)C1(CCN(CC1)CCCO)C1=CC=CC=C1 | C20H25NO
